US04499094
Operations are carried out as for Example 19, starting from 2.5 g of 4-phenyl quinazoline 2-carboxylic acid, 10 ml of thionyl chloride, 25 ml of toluene and 10 ml of N-methyl 2-butanamine. 2.2 g of N-methyl N-(1-methyl propyl) 4-phenyl quinazoline 2-carboxamide, melting at 128° C., are obtained.

reactant | 4-phenyl quinazoline 2-carboxylic acid | 2.5 g | C1(=CC=CC=C1)C1=NC(=NC2=CC=CC=C12)C(=O)O | C15H10N2O2
reactant | thionyl chloride | 10 ml | S(=O)(Cl)Cl | Cl2OS
reactant | N-methyl 2-butanamine | 10 ml | CNC(C)CC | C5H13N
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
product | N-methyl N-(1-methyl propyl) 4-phenyl quinazoline 2-carboxamide | 2.2 g | CN(C(=O)C1=NC2=CC=CC=C2C(=N1)C1=CC=CC=C1)C(CC)C | C20H21N3O
